US05693667
A mixture of 2-chloro-4-bromobenzoic acid (5.0 g, 21.2 mmol) and hexamethyldisilazane (5.0 mL, 23.7 mmol) was heated at 135° C. for 3 h, then was distilled under vacuum to afford 6.32 g of O-trimethylsilyl 2-chloro-4-bromobenzoate as a colorless oil, a 97% yield.

reactant | 2-chloro-4-bromobenzoic acid | 21.2 mmol, 5.0 g | ClC1=C(C(=O)O)C=CC(=C1)Br | C7H4BrClO2
reactant | hexamethyldisilazane | 23.7 mmol, 5.0 mL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
product | O-trimethylsilyl 2-chloro-4-bromobenzoate | 6.32 g, 97% yield | ClC1=C(C(=O)O[Si](C)(C)C)C=CC(=C1)Br | C10H12BrClO2Si
